2121-02-24 07:46:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 10**] Admission: Hypoxia [**1-14**] fluid overload
   24 Hour Events:
   - patient given lasix 40 IV x 2, - 2L in MICU
   - patient remained on NRB
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-23**] 07:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-24**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 98 (91 - 112) bpm
   BP: 121/77(87) {110/66(77) - 141/83(93)} mmHg
   RR: 22 (21 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     60 mL
                  PO:
                                                                     60 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    410 mL
   Urine:
                                                                  2,035 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,975 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   11.4 g/dL
   91 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   97 mEq/L
   137 mEq/L
   34.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2121-2-23**]  02:51 PM
                             [**2121-2-24**]  04:04 AM
   WBC
   16.3
   14.7
   Hct
   36.0
   34.1
   Plt
   199
   211
   Cr
   0.5
   0.5
   Glucose
   103
   91
   Other labs: Differential-Neuts:58.1 %, Lymph:33.2 %, Mono:3.9 %,
   Eos:4.3 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**2121-2-23**]:
   FINDINGS: The increased opacity in the airspaces is progressing. There
   is no
   evidence of distension of the pulmonary vessels, nor change in the
   heart size.
   The apices remain clear. This progression can be seen with either ARDS
   or
   lateral pneumonia.
   IMPRESSION: Continued progression of worsened airspace disease. No PTX.
   Microbiology: [**2121-2-23**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2121-2-21**]  CATHETER TIP-IV WOUND CULTURE-FINAL INPATIENT
   [**2121-2-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2121-2-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2121-2-14**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2121-2-14**]  URINE URINE CULTURE-FINAL {GRAM POSITIVE BACTERIA}
   INPATIENT
   Assessment and Plan
   Vitals: HR 109, BP 124/82, RR 18, 98% on NRB
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, NRB present
   Neck: supple
   Lungs: crackles at bases bilaterally, otherwise clear
   CV: tachycardic normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or trace
   pedal edema
   Labs / Radiology
   Fluid analysis / Other labs:
   Labs:
   140 | 101 | 16 /
   --------------- 122
   4.0 | 32  | 0.5 \
   .
   Ca 7.9
   Mg 2.1
   Phos 3.3
   .
   .
   Micro:
   [**2-21**] - blood cultures - NGTD
   [**2-21**] - cath tip culture - no growth to date
   .
   Images:
   CXR - [**2121-2-22**].
   IMPRESSION: Compared to the most recent prior chest x-ray there is some
   worsening airspace disease; this could be worsening pulmonary edema or
   developing pneumonia. Clinical correlation is therefore needed.
   .
   CXR [**2121-2-23**]. Worsened bilateraly airspace disease consistent with ARDS
   versus bilateraly pneumonia.
   Assessment and Plan
   Ms. [**Known lastname 11473**] is a 35 yo F with metastic melanoma s/p IL-2 treatment with
   hypoxic respiratory failure secondary to pulmonary edema.
   .
   # Hypoxic Respiratory Failure.  Patient's marked hypoxia is likely
   secondary to pulmonary edema in the setting of capillary leak from IL2
   therapy.  She received 20 L of IVF during the hospitalization and now
   is responding well to lasix.  No current evidence to support pneumonia.
   - lasix 40 IV q 6 hours prn with goal negative 2-3L/day
   - daily CXR
   - wean O2 as needed
   - consider vanco/cefepime/levo if worsening status or evidence of PNA
   - no steroids given recent IL2 therapy
   .
   # Metastatic melanoma.  Patient has newly diagnosed metastatic melanoma
   now s/p IL2 therapy.
   - onc recs
   .
   # Tobacco Dependence.
   - continue nicotine patch
   .
   FEN: No IVF, replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code:  Full, confirmed with patient and husband [**Name (NI) 117**]
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement of respiratory status and
   need for NRB
   .
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2121-2-23**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-23**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2121-02-24 10:01:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Negative fluid balance maintained
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-23**] 07:29 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2121-2-24**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 95 (91 - 112) bpm
   BP: 117/74(83) {110/66(77) - 141/83(93)} mmHg
   RR: 32 (21 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     60 mL
                  PO:
                                                                     60 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    565 mL
   Urine:
                                                                  2,035 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,975 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   211 K/uL
   91 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   97 mEq/L
   137 mEq/L
   34.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2121-2-23**]  02:51 PM
                             [**2121-2-24**]  04:04 AM
   WBC
   16.3
   14.7
   Hct
   36.0
   34.1
   Plt
   199
   211
   Cr
   0.5
   0.5
   Glucose
   103
   91
   Other labs: Differential-Neuts:58.1 %, Lymph:33.2 %, Mono:3.9 %,
   Eos:4.3 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: AG-10
   Imaging: CXR-Diffuse ground glass seen with suggestion of consolidation
   in LLL and suggestion of collapse in RLL with some interval improvement
   in ground
   Assessment and Plan
   Patient with IL-2 Rx for metastatic melanoma and now admitted to ICU
   with severe hypoxemia and persistently increased oxygen requirement.
   1) HYPOXEMIA-
   -Levofloxacin to continue
   -Will maintain negative fluid balance to work to promote resolution of
   pulmonary edema
   -Do see slow improvement in CXR but with persistent hypoxemia
   -Will have supervised PO intake
   -Will have to consider chest CT if patient with continued slow
   resolution.
   2) MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
   -Further Rx and timing per primary oncology team.
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-23**] 03:00 PM
   Prophylaxis:
   DVT: LENI today for asymmetric edema
DVT prophylaxis to continue
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2121-02-25 07:12:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 10**] Admission: Respiratory Failure
   24 Hour Events:
   -Diuresed well (~2L) from lasix 40 IV x 1
   -Repeat CXR ordered for AM for ?consolidation on [**2-23**] CXR.
   -Pt was noted to have asymmetrical swelling of LE (L>R) on PE in AM so
   ordered for LENIs which were negative for DVT but showed a left node
   measuring 3.9 cm and another node measuring 1.1 cm. Onc was notified
   and stated that there is no change in mgmt at this time. Pt still needs
   full staging workup since very newly diagnosed.
 ULTRASOUND - At [**2121-2-24**] 10:37 AM
   LENI'S
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2121-2-24**] 10:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-24**] 10:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-25**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 87 (87 - 107) bpm
   BP: 115/68(77) {109/68(77) - 134/87(98)} mmHg
   RR: 27 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    360 mL
                                                                    250 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    195 mL
   Urine:
                                                                  1,960 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,600 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, NRB present
   Neck: supple
   Lungs: crackles at bases bilaterally, otherwise clear
   CV: tachycardic normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis .  Trace
   edema L lower leg
   Labs / Radiology
   265 K/uL
   11.6 g/dL
   109 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   136 mEq/L
   35.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2121-2-23**]  02:51 PM
                             [**2121-2-24**]  04:04 AM
                             [**2121-2-24**]  03:33 PM
                             [**2121-2-25**]  04:27 AM
   WBC
   16.3
   14.7
   13.6
   11.2
   Hct
   36.0
   34.1
   36.1
   35.2
   Plt
   199
   211
   257
   265
   Cr
   0.5
   0.5
   0.5
   0.4
   Glucose
   103
   91
   88
   109
   Other labs: Differential-Neuts:58.1 %, Lymph:33.2 %, Mono:3.9 %,
   Eos:4.3 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: LENI: No DVT, left node measuring 3.9 cm and another node
   measuring 1.1 cm.
   Assessment and Plan
   Ms. [**Known lastname 11473**] is a 35 yo F with metastatic melanoma s/p IL-2 treatment with
   hypoxic respiratory failure secondary to pulmonary edema.
   # Hypoxic Respiratory Failure.  Patient's marked hypoxia is likely
   secondary to pulmonary edema in the setting of capillary leak from IL2
   therapy.  Responding well to lasix overnight, -1.5L, held further
   diuresis per onc.  Now on 70% FM,  Getting levofloxacin x 5 days for
   empiric PNA tx.  Leukocytosis improving.
   - lasix 40 IV now, prn with goal negative -2L
   - strict I/Os
   - daily CXR
   - wean O2 as tolerated
   - continue levofloxacin
   - no steroids given recent IL2 therapy
   .
   # Metastatic melanoma.  Patient has newly diagnosed metastatic melanoma
   now s/p IL2 therapy. Newly identified inguinal node on L LENI.
   - onc recs
   - ensure that patient informed of final U/S recult
   - pain control
   .
   # Tobacco Dependence.
   - continue nicotine patch
   ICU Care
   Nutrition: Regular diet
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2121-2-23**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2121-02-25 10:49:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Metastatic Melanoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2121-2-24**] 10:37 AM
   LENI'S
   -Continued negative fluid balance maintained
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2121-2-24**] 10:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2121-2-25**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 104 (83 - 107) bpm
   BP: 113/70(80) {109/68(77) - 134/78(89)} mmHg
   RR: 21 (18 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    360 mL
                                                                    250 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    315 mL
   Urine:
                                                                  1,960 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,600 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   265 K/uL
   109 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   136 mEq/L
   35.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2121-2-23**]  02:51 PM
                             [**2121-2-24**]  04:04 AM
                             [**2121-2-24**]  03:33 PM
                             [**2121-2-25**]  04:27 AM
   WBC
   16.3
   14.7
   13.6
   11.2
   Hct
   36.0
   34.1
   36.1
   35.2
   Plt
   199
   211
   257
   265
   Cr
   0.5
   0.5
   0.5
   0.4
   Glucose
   103
   91
   88
   109
   Other labs: Differential-Neuts:58.1 %, Lymph:33.2 %, Mono:3.9 %,
   Eos:4.3 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--mild improvement in bilateral pulmonary edema seen.
   Assessment and Plan
   35 yo female with metastatic melanoma and now admitted to the ICU with
   hypoxemic respiratory failure in the setting of IL-2 therapy.  With
   empiric antibiotics and continued negative fluid balance have seen mild
   improvement in oxygenation but not as rapid as had been hoped for.
   1)
 HYPOXEMIA-No evidence of DAH seen
   -Levoflox
   -Lasix to continue with negative fluid balance at 1-2 liters/d
   -Wean O2 as possible
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
   -Pain control with MSO4
   -Will minimize as possible
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-25**] 08:51 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if able to provide O2 stability on
   supplemental oxygen
   Total time spent: 35 minutes

2121-02-26 07:51:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 10**] Admission: Respiratory Failure
   24 Hour Events:
   - Gave 40mg IV lasix in am, was a little over 1L negative at 5pm and
   had put out well to 40 so gave another dose at 5pm & a 3rd at 11:30PM
   after being negative 2L
   - O2 requirement decreased to 7L NC
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2121-2-25**] 10:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2121-2-25**] 07:59 PM
   Furosemide (Lasix) - [**2121-2-26**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-26**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 98 (94 - 104) bpm
   BP: 121/73(85) {112/70(47) - 124/82(91)} mmHg
   RR: 27 (21 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    430 mL
                                                                     50 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    250 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    755 mL
   Urine:
                                                                  2,350 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,920 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (7L)
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, NRB present
   Neck: supple
   Lungs: crackles at bases bilaterally, otherwise clear
   CV: tachycardic normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis .  Trace
   edema L lower leg
   Labs / Radiology
   351 K/uL
   12.9 g/dL
   102 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   16 mg/dL
   94 mEq/L
   136 mEq/L
   38.6 %
   12.4 K/uL
        [image002.jpg]
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
                             [**2121-2-23**]  02:51 PM
                             [**2121-2-24**]  04:04 AM
                             [**2121-2-24**]  03:33 PM
                             [**2121-2-25**]  04:27 AM
                             [**2121-2-25**]  04:22 PM
                             [**2121-2-26**]  03:12 AM
   WBC
   16.3
   14.7
   13.6
   11.2
   12.4
   Hct
   36.0
   34.1
   36.1
   35.2
   38.6
   Plt
   199
   211
   257
   265
   351
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   103
   91
   88
   109
   108
   102
   Other labs: PT / PTT / INR:15.5/40.4/1.4, Differential-Neuts:58.1 %,
   Lymph:33.2 %, Mono:3.9 %, Eos:4.3 %,
   CXR: [**2121-2-25**]
   The patient has low lung volumes. In addition to the known metastatic
   disease
   to the lungs there has been interval worsening of pulmonary edema, and
   possible new confluent opacities in both lower lobes. No pleural
   effusions
   are present. The cardiomediastinal silhouette and hilar contours are
   unchanged.
   Assessment and Plan
   Ms. [**Known lastname 11473**] is a 35 yo F with metastatic melanoma s/p IL-2 treatment with
   hypoxic respiratory failure secondary to pulmonary edema.
   # Hypoxic Respiratory Failure.  Patient's marked hypoxia is likely
   secondary to pulmonary edema in the setting of capillary leak from IL2
   therapy.  Responding well to lasix overnight, -1.5L, held further
   diuresis per onc.  Now on 70% FM,  Getting levofloxacin x 5 days for
   empiric PNA tx.  Leukocytosis improving.
   - lasix 40 IV now, prn with goal negative -2L
   - strict I/Os
   - daily CXR
   - wean O2 as tolerated
   - continue levofloxacin
   - no steroids given recent IL2 therapy
   .
   # Metastatic melanoma.  Patient has newly diagnosed metastatic melanoma
   now s/p IL2 therapy. Newly identified inguinal node on L LENI.
   - onc recs
   - ensure that patient informed of final U/S recult
   - pain control
   .
   # Tobacco Dependence.
   - continue nicotine patch
   ICU Care
   Nutrition: Regular diet
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2121-2-23**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2121-02-26 11:16:00 Physician Attending Progress Note
Chief Complaint: Hypoxia
   Acute PUlmonary Edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                           History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2121-2-25**] 10:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2121-2-25**] 07:59 PM
   Furosemide (Lasix) - [**2121-2-26**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2121-2-26**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 102 (94 - 108) bpm
   BP: 123/80(91) {112/70(47) - 132/85(96)} mmHg
   RR: 23 (22 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    430 mL
                                                                    170 mL
   PO:
                                                                    180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    250 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    875 mL
   Urine:
                                                                  2,350 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,920 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   351 K/uL
   102 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   16 mg/dL
   94 mEq/L
   136 mEq/L
   38.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2121-2-23**]  02:51 PM
                             [**2121-2-24**]  04:04 AM
                             [**2121-2-24**]  03:33 PM
                             [**2121-2-25**]  04:27 AM
                             [**2121-2-25**]  04:22 PM
                             [**2121-2-26**]  03:12 AM
   WBC
   16.3
   14.7
   13.6
   11.2
   12.4
   Hct
   36.0
   34.1
   36.1
   35.2
   38.6
   Plt
   199
   211
   257
   265
   351
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   103
   91
   88
   109
   108
   102
   Other labs: PT / PTT / INR:15.5/40.4/1.4, Differential-Neuts:58.1 %,
   Lymph:33.2 %, Mono:3.9 %, Eos:4.3 %, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.4 mg/dL
   Fluid analysis / Other labs: AG-12
   Imaging: CXR--none new, yesterday read as consistent with pulmonary
   edema and confluent opacities--today with improved edema and
   consolidation
   Assessment and Plan
   35 yo with metastatic melanoma admitted to ICU with hypoxemia and
   likely source of pulmonary edema with significant response to lasix and
   negative fluid balance across the time of admission now weaned to nasal
   cannula
   1) HYPOXEMIA--Secondary to Pulmonary Edema with concern for
   consolidations patient has ongoing Rx for pneumonia
   -Continue with Levofloxacin
   -Continue with negative fluid balance across today
   2) MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)-
   -Further Rx per primary oncology team
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-25**] 08:51 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition : Transfer to floor with O2 stability with activity
   Total time spent: 33